US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid {4-[2-(4-pyridin-2-yl-piperazin-1-yl)-ethyl]-phenyl}-amide
To a solution of 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid (containing 1 equivalent of DMA, 44 mg, 0.1 mmol), 4-[2-(4-pyridin-2-yl-piperazin-1-yl)-ethyl]-phenylamine (28.2 mg, 0.1 mmol) and HATU (38 mg, 0.1 mmol) in DMF (1.2 mL) was added DIEA (45 mg, 0.35 mmol). The reaction mixture was stirred at room temperature for 2 h and heated at 60° C. for 3 h, and then evaporated to dry under reduced pressure. The residue was diluted with DMSO (1.5 mL), filtered and then purified with using HPLC (TFA/H2O/CH3CN) to afford the title compound (26.6 mg, 39%). 1H NMR (MeOH-d4) δ 3.10-4.01 (12H), 3.98 (s, 3H), 6.87 (m, 1H), 7.04-7.12 (2H), 7.21 (d, J=9 Hz, 1H), 7.36 (d, J=6 Hz, 2H), 7.72-7.83 (5H), 7.89 (d, J=6 Hz, 1H), 8.09 (d, J=6 Hz, 1H), 8.17 (t, J=3 Hz, 2H), 8.26 (s, 1H), 8.37 (s, 1H). ESI-MS m/z 626.5 (MH+).

reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid | 0.1 mmol, 44 mg, 1 equivalent | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C20H15N3O4
reactant | 4-[2-(4-pyridin-2-yl-piperazin-1-yl)-ethyl]-phenylamine | 0.1 mmol, 28.2 mg | N1=C(C=CC=C1)N1CCN(CC1)CCC1=CC=C(C=C1)N | C17H22N4
reactant | HATU | 0.1 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.35 mmol, 45 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid {4-[2-(4-pyridin-2-yl-piperazin-1-yl)-ethyl]-phenyl}-amide | 26.6 mg, 39% | N1=C(C=CC=C1)N1CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C1=CC2=C(NC(=N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C37H35N7O3
